US05192789
3-(N-Cyclopropyl)amino-1,2,3,3a,4,8b-hexahydro-4-methylcyclopent[b]indol-7-ol (8.8 g) was dissolved in CH2Cl2 (400 ml) along with triethylamine (4.4 g). The solution was cooled to 0° C. and stirred under N2. Benzyl chloroformate (6.1 g) dissolved in CH2Cl2 (50 ml) was added slowly to the first solution. The reaction was monitored by thin layer chromatography while adding an additional equivalent (6.1 g) of the chloroformate until the reaction was complete. The solution was warmed to room temperature before washing with water (2×100 ml), drying over Na2SO4 and concentrating to an oil, which was purified by preparative HPLC using 3:1 hexane/acetone as the solvent system. 3-(N-Cyclopropyl)amino-1,2,3,3a,4,8b-hexahydro-4-methylcyclopent[b]indol-7-yl phenylmethylcarbonate was isolated (7.0 g), which was characterized by NMR, MS and IR. This material was dissolved in CH2Cl2 (250 ml) and the solution treated with 1,8-diazabicyclo[5.4.0]undec-7 -ene (DBU; 0.4 g). The mixture was cooled to 0° C. and stirred while a solution of methyl isocyanate (1.1 g) in 50 ml CH2Cl2 was added slowly. The reaction was monitored by TLC (1:1 hexane/acetone) while adding another 2.5 equivalents (2.7 g) of methyl isocyanate until the reaction was complete. The solution was warmed to room temperature, washed successively with brine (2×100 ml) and water (1×100 ml), dried over Na2SO4 and concentrated. The oil was purified by flash column chromatography using ethyl acetate as the solvent system. 3-(N-Cyclopropyl-N-methylaminocarbonyl)amino-1,2,3,3a,4,8b-hexahydro-4-methylcyclopent[b]indol-7-yl phenylmethylcarbonate was isolated (4.5 g). The material was dissolved in absolute ethanol (190 ml), and 10% palladium on carbon (10% by weight; 0.4 g) was added. The solution was placed in a Parr shaker bottle, charged with H2 (45 psi) and shaken for 2 hours. The catalyst was filtered and the filtrate was concentrated. The oil was triturated with EtOAc (50 ml) and CH2Cl2 (5 ml) to give an off-white solid (1.05 g). 3-(N-Cyclopropyl-N-methylaminocarbonyl)amino-1,2,3,3a,4,8b-hexahydro-4-methylcyclopent[b]indol-7-ol was characterized by NMR, MS and IR. The solid (0.8 g) was dissolved in 8:1 Et2O/EtOH (200 ml) initially and ethereal hydrogen chloride was added slowly until the solution became neutral and then more Et2O (800 ml) was added. 3-(N-Cyclopropyl-N-methylamino-carbonyl)amino-1,2,3,3a,4,8b-hexahydro-4-methylcyclopent[b]indol-7-ol hydrochloride was isolated as an off-white solid after filtering and drying under N2 (0.65 g).

reactant | 3-(N-Cyclopropyl-N-methylaminocarbonyl)amino-1,2,3,3a,4,8b-hexahydro-4-methylcyclopent[b]indol-7-ol | C1(CC1)N(C(=O)NC1CCC2C1N(C=1C=CC(=CC21)O)C)C | C17H23N3O2
reactant | hydrogen chloride | Cl | ClH
reactant | Et2O | 800 ml | CCOCC | C4H10O
solvent | Et2O EtOH | 200 ml | CCOCC.CCO
product | 3-(N-Cyclopropyl-N-methylamino-carbonyl)amino-1,2,3,3a,4,8b-hexahydro-4-methylcyclopent[b]indol-7-ol hydrochloride | Cl.C1(CC1)N(C(=O)NC1CCC2C1N(C=1C=CC(=CC21)O)C)C | InChI=1S/C17H23N3O2.ClH/c1-19(10-3-4-10)17(22)18-14-7-6-12-13-9-11(21)5-8-15(13)20(2)16(12)14;/h5,8-10,12,14,16,21H,3-4,6-7H2,1-2H3,(H,18,22);1H
